US08030487B2
Synthesis of (4-Methoxy-phenyl)-(5-nitro-pyrimidin-2-yl)-amine (Intermediate 67)
In a dry 50 mL round bottom flask 5-nitro-pyrimidin-2-ylamine (1.16 g, 8.3 mmol, 1 equiv), 4-bromo anisole (1.3 mL, 10.4 mmol, 1.25 equiv), cesium carbonate (5.4 g, 16.6 mmol, 2 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene (0.479 g, 0.83 mmol, 0.1 equiv) and tris(dibenzylideneacetone) dipalladium (0.304 g, 0.33 mmol, 0.04 equiv) were combined. Reactants were flushed with argon, diluted with dioxane (15 mL) and outfitted with reflux condenser. Reaction was heated to reflux for 18 hours. Reaction was then filtered hot and solvents were evaporated to provide dark solids. Silica gel chromatography (1:4 EtOAc/Hexanes) provided desired product. Yellow powder (0.6 g, 30% yield). Rf=0.39 (20% EtOAc/Hexanes).

reactant | 5-nitro-pyrimidin-2-ylamine | 8.3 mmol, 1.16 g, 1 equiv | [N+](=O)([O-])C=1C=NC(=NC1)N | C4H4N4O2
reactant | 4-bromo anisole | 10.4 mmol, 1.3 mL, 1.25 equiv | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | cesium carbonate | 16.6 mmol, 5.4 g, 2 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene | 0.83 mmol, 0.479 g, 0.1 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone) dipalladium | 0.33 mmol, 0.304 g, 0.04 equiv | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | (4-Methoxy-phenyl)-(5-nitro-pyrimidin-2-yl)-amine | COC1=CC=C(C=C1)NC1=NC=C(C=N1)[N+](=O)[O-] | C11H10N4O3
